US08022223B2
Step E: Preparation of (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine:
The solution of (R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol (2.08 g, 13.9 mmol) in POCl3 (10 ml) was refluxed for 2 hours. After cooling, the excess POCl3 was evaporated and the residue was dissolved in CH2Cl2 (50 ml) and was neutralized with saturated NaHCO3. The aqueous phase was extracted with CH2Cl2. The organic phase was dried and concentrated. The residue purified on silica gel (20% EtOAc in hexanes) to afford the title compound (1.0 g, 44% yield).

reactant | (R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-ol | 13.9 mmol, 2.08 g | C[C@@H]1CCC=2N=CN=C(C21)O | C8H10N2O
reactant | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 1.0 g, 44% yield | ClC=1C2=C(N=CN1)CC[C@H]2C | C8H9ClN2
